US04971993
L-valyl-L-proline benzylester hydrochloride (1.70 g, 5 mmole) was dissolved in methylene chloride (30 ml), and triethylamine (1.11 g, 11 mmole) was added thereto at -30° C. Methylene chloride (10 ml) solution of benzene sulfonyl chloride (0.86 g, 5 mmole) was added dropwise to the solution. The mixture was stirred for 1 hour at less than 0° C., and then for 5 hours at room temperature, and methylene chloride (60 ml) was added thereto. The solution was washed with aqueous 5% sodium bicarbonate (100 ml, twice), 1N aqueous hydrochloric acid (100 ml, twice) and water (100 ml) in the order given and dried over anhydrous magnesium sulfate. The solvent was stilled off under reduced pressure to obtain N-benzenesulfonyl-L-valyl-L-proline benzylester(yield: 2.00 g, 90.0%).

reactant | L-valyl-L-proline benzylester hydrochloride | 5 mmole, 1.70 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)C(C)C)=O)=O
reactant | triethylamine | 11 mmole, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | benzene sulfonyl chloride | 5 mmole, 0.86 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-benzenesulfonyl-L-valyl-L-proline benzylester | yield: 2.00 g, 90.0% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NS(=O)(=O)C1=CC=CC=C1)C(C)C)=O)=O | C23H28N2O5S
